US08937148B2
Hydroquinone can be added to a solution of sodium hydride (NaH) dissolved in tetrahydrofuran (THF) and combined with ethyl bromide yielding para-ethoxyphenol. The para-ethoxyphenol can be extracted and added to a solution of tosyl chloride (TsCl) dissolved in pyridine and tetrahydrofuran (THF) at room temperature, yielding para-ethoxytosyloxybenzene. The para-ethoxytosyloxybenzene can be extracted and added to a solution of diatomic iodine (I2) and potassium iodide trioxide (KIO3) dissolved in sulfuric acid (H2SO4) and acetic acid (CH3COOH) yielding 4-ethoxy-3-iodo-1-tosyloxybenzene. The 4-ethoxy-3-iodo-1-tosyloxybenzene is extracted and added to a solution of aqueous sodium hydroxide (NaOH) and tert-butanol, removing the tosylate protecting group and yielding 4-ethoxy-3-iodophenol. The 4-ethoxy-3-iodophenol can be extracted and exposed to resin-bound triphenyphosphine (PPh3) in a solution of azopyridine and methanol (CH3OH) in a salt bath at 0° C., yielding 4-ethoxy-3-iodomethoxybenzene. The 4-ethoxy-3-iodomethoxybenzene can be extracted and added to a solution of titanium tetrachloride (TiCl4) and 1,1-dichlorodimethylether (CHCl2OCH3) dissolved in dichloromethane (CH2Cl2) in a salt bath at −10° C., yielding 2-methoxy-4-iodo-5-ethoxybenzaldehyde. The 2-methoxy-4-iodo-5-ethoxybenzaldehyde can be extracted and half of the yield can be added to tri-iso-propylsilylacetylene (TIPS-acetylene) in an amine solvent such as triethylamine, diethylamine, piperidine, or di-iso-propylethylamine. This mixture can be passed over a palladium (Pd) catalyst bed, yielding 2-methoxy-5-ethoxy-4-((tri-iso-propylsilyl)ethynyl)benzaldehyde.

reactant | Hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromide | C(C)Br | C2H5Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | para-ethoxyphenol | C(C)OC1=CC=C(C=C1)O | C8H10O2
